Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:4][C:5]([H:12])([H:13])[O:6][C:7]1([H:14])[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8],43.9263568837902
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C@:4]1([O:5][H:12])[C:6]([O:7][H:15])([H:13])[H:14])([H:8])([H:9])[H:10],88.9067762158241
[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9]>>[N:1]#[C:2][C:6]1=[N:7][C:5]([H:10])([H:11])[O:4][C:3]1([H:8])[H:9],65.5365561043674
[N:1]1=[C:2]([H:8])[O:3][C:4]([H:9])([H:10])[C:5][N:6]1[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7],27.754973033939393
[C:1]([C@@:7]([C:2](=[O:3])[H:11])([C:6](=[C:4]=[O:5])[H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10],29.574605298556392
[C:1]([C:2]([H:10])[H:11])([H:7])([H:8])[H:9].[C:3]([O:4][C:5]([C:6]([H:16])([H:17])[H:18])[H:14])([H:12])([H:13])[H:15]>>[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],26.946433219064602
[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:17].[C:2]1([O:3][H:11])=[C:7]([H:16])[C:6]([H:15])=[C:5]([H:14])[C:4]1([H:12])[H:13],93.8227634073402
[C:1]([C@@:2]1([H:11])[C@:4]([C+:3]([H:12])[H:13])([H:14])[C:5]([H:15])([H:16])[C:6]1=[C-:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],4.020590889553496
[C-:5]#[O+:6].[C:1]([H:7])([H:8])([H:9])[H:15].[C:2](=[N:3][C:4]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],53.15097579916271
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1]([C:2](=[C:3])[H:9])([C@@:6]1([H:13])[C:4]([H:10])([H:11])[N:5]1[H:12])([H:7])[H:8],78.7337101343946
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:3][H:11])([H:7])([H:8])[H:9].[C:2]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10],99.1675047096649
[C:1]([C:2]([C:3]([C:4](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([H:15])([H:16])([H:17])[H:18]>>[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:15])([H:16])[H:17])([O:6][H:18])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],78.42120152438667
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3]1\[O:4][N:5]1[C:7]([H:15])([H:16])[H:17])([H:8])([H:9])[H:10].[C:6]([H:11])([H:12])([H:13])[H:14],96.4796648690322
[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]3([H:9])[N:4]([H:10])[C@@:5]2([H:11])[C@:6]13[H:12]>>[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]1([H:9])[C@:6]1([H:12])[N:4]([H:10])[C@:5]21[H:11],50.18556398421779
[C:1](=[C:2]1[C@@:3]2([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:9])[H:10].[H:8][H:11]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10],52.77649978345189
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[N:6][C:7]1([H:13])[H:14])[H:8]>>[O:1]1[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:8])([H:12])[N:6]1[C:7]2([H:13])[H:14],92.9025995959135
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2]([O:3][C:6](=[O:7])[H:13])=[C:4](/[O:5][H:12])[H:11])([H:8])([H:9])[H:10],44.722383578271796
[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:8])([H:10])[H:11].[O:1]([C:2][H:9])[H:7],70.93295842715291
[O:1](/[C:2](=[C:3](\[C:4]([O:5][H:11])([H:8])[H:10])[H:9])[H:7])[H:6]>>[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[C@:4]1([O:5][H:11])[H:10])[H:6],75.1094597422847
[O:1]=[C:2]([N:3]1[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C:6]1=[C:7]([H:9])[H:14])[H:8]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],92.5440001454453
[C:1]([C@:2]1([C:4]([O:5][H:14])([H:12])[H:13])[C:6]([O:3][H:11])=[C:7]1[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],50.98806108830159
[C:1]([O:2][C:3]1=[C:7]([H:13])[C@:6]1([N:5]([N:4])[H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],29.59932429272493
[C:1]([H:7])([H:8])([H:9])[H:10].[C:2]1[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9],5.815642340969291
